US09278931B2
N-(4-{trans-2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide hydrochloride
To a solution of N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride (75 mg), tetrahydro-4H-thiopyran-4-one 1,1-dioxide (37.4 mg) and acetic acid (0.2 mL) in methanol (2 mL) was added 2-picoline-borane complex (38.2 mg). The mixture was stirred at room temperature overnight, and saturated aqueous sodium hydrogen carbonate solution was added under ice-cooling. The mixture was m extracted with ethyl acetate, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate, ethyl acetate/methanol) and 10% hydrochloric acid methanol solution was added. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (32.0 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride | 75 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O
reactant | tetrahydro-4H-thiopyran-4-one 1,1-dioxide | 37.4 mg | S1(CCC(CC1)=O)(=O)=O | C5H8O3S
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | N-(4-{trans-2-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide hydrochloride | 32.0 mg | Cl.O=S1(CCC(CC1)N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | InChI=1S/C22H23F3N2O3S.ClH/c23-22(24,25)16-3-1-2-15(12-16)21(28)27-17-6-4-14(5-7-17)19-13-20(19)26-18-8-10-31(29,30)11-9-18;/h1-7,12,18-20,26H,8-11,13H2,(H,27,28);1H/t19-,20+;/m0./s1
